US04478849
N-(2-[4-Carbomethoxyphenyl]-1-methylethyl)-2-(2-chloro-4-hydroxyphenyl)-2-hydroxyethanamine
N-(2-[4-Carbomethoxyphenyl]-1-methylethyl)-2-(4-benzyloxy-2-chlorophenyl)-2-hydroxyethanamine was hydrogenated in ethanol at atmospheric pressure and room temperature in the presence of 5% palladium on charcoal. The catalyst was removed and the product was recrystallised as the hydrochloride from ethyl acetate as a 28:72 mixture of diastereoisomers, mp 194°-195°. τ (d6DMSO) 8.79 (3H, d, J=6 Hz), 6.20-7.50 (6H, m), 6.16 (3H, s), 4.67 (1H, m), 2.30-3.30 (5H, m), 2.07 (2H, d, J=8 Hz), 0.67 (1H, br).

reactant | N-(2-[4-Carbomethoxyphenyl]-1-methylethyl)-2-(4-benzyloxy-2-chlorophenyl)-2-hydroxyethanamine | C(=O)(OC)C1=CC=C(C=C1)CC(C)NCC(O)C1=C(C=C(C=C1)OCC1=CC=CC=C1)Cl | C26H28ClNO4
solvent | ethanol | C(C)O | C2H6O
catalyst | palladium on charcoal | [Pd] | Pd
product | N-(2-[4-Carbomethoxyphenyl]-1-methylethyl)-2-(2-chloro-4-hydroxyphenyl)-2-hydroxyethanamine | C(=O)(OC)C1=CC=C(C=C1)CC(C)NCC(O)C1=C(C=C(C=C1)O)Cl | C19H22ClNO4
